US08877815B2
A solution of tert-butyl 2-cyano-3-(4-methoxyphenyl)propanoate (50 mg, 0.191 mmol) in EtOH (4 ml) was hydrogenated with Raney-Cobalt at 50° C. (30 atm) for 2 hours. The reaction mixture was concentrated under reduced pressure to give tert-butyl 3-amino-2-(4-methoxybenzyl)propanoate (50.1 mg); Retention time=1.24 minutes (condition A); MS (m+1)=266.3.

reactant | tert-butyl 2-cyano-3-(4-methoxyphenyl)propanoate | 0.191 mmol, 50 mg | C(#N)C(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)OC | C15H19NO3
solvent | EtOH | 4 ml | CCO | C2H6O
catalyst | Cobalt | [Co] | Co
product | tert-butyl 3-amino-2-(4-methoxybenzyl)propanoate | 50.1 mg | NCC(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)OC | C15H23NO3
